US08487108B2
To a solution of (R)-methyl 2-(benzyloxycarbonylamino)-3-(4-chlorobutanamido)propanoate (5.0 g, 14 mmol) in 100 mL of anhydrous MeOH was added NaBH4 (12.9 g, 0.33 mol) and the mixture was stirred at it overnight. The pH of the reaction mixture was adjusted to 8-9 using NaHCO3, the mixture was evaporated to near dryness, followed by extraction with EtOAc. The organic layer was washed with water, dried over Na2SO4, filtered and concentrated to give (R)-benzyl 1-(4-chlorobutanamido)-3-hydroxypropan-2-ylcarbamate (3.9 g, yield 85%) that was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 7.37-7.30 (m, 5H) 5.13 (d, 2H), 3.77 (m, 1H), 3.57 (m, 4H), 2.32 (t, 2H), 2.08 (t, 2H).

reactant | (R)-methyl 2-(benzyloxycarbonylamino)-3-(4-chlorobutanamido)propanoate | 14 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)OC)CNC(CCCCl)=O | C16H21ClN2O5
reactant | NaBH4 | 0.33 mol, 12.9 g | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (R)-benzyl 1-(4-chlorobutanamido)-3-hydroxypropan-2-ylcarbamate | 3.9 g, yield 85% | ClCCCC(=O)NC[C@H](CO)NC(OCC1=CC=CC=C1)=O | C15H21ClN2O4
